US07855292B2
B. 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid
To a stirred suspension of 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid methyl ester (2.0 g, 5.2 mmol) in THF (12 mL) at rt was added LiOH (2 M in water, 10 mL). The resulting orange mixture was stirred overnight at rt then poured into 0.5 M HCl (150 mL) causing precipitation of the desired benzoic acid. After stirring the mixture several minutes to complete precipitation, the product was collected by suction filtration and air-dried to afford the acid as a tan solid (1.87 g, 97%). MS (ESI−): mass calcd. for C13H8ClN3O4S2, 369.8; m/z found, 368 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.22 (br s, 1H), 8.43 (dd, J=7.2, 1.0, 1H), 8.26 (dd, J=8.8, 1.0, 1H), 7.90 (d, J=8.8, 1H), 7.80 (d, J=2.0, 1H), 7.75 (dd, J=8.8, 7.2, 1H), 6.99 (dd, J=8.8, 2.0, 1H). Anal. calcd. for C13H8ClN3O4S2: C, 42.22; H, 2.18; N, 11.36. Found: C, 41.92; H, 2.50; N, 11.38.

reactant | 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid methyl ester | 5.2 mmol, 2.0 g | COC(C1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O | C14H10ClN3O4S2
reactant | LiOH | 2 M, 10 mL | [Li+].[OH-]
reactant | HCl | 0.5 M, 150 mL | Cl | ClH
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid | 1.87 g, 97% | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Cl | C13H8ClN3O4S2
